US08497269B2
Synthesis of 1-(4-Fluoro-2-methylphenyl)-6-(3-fluorophenylthio)phthalazine
A mixture of 6-chloro-1-(4-fluoro-2-methylphenyl)phthalazine (0.197 g, 0.72 mmol), palladium(II) acetate (0.011 g, 0.049 mmol), 1,1′-bis(isopropylphosphino)ferrocene (0.022 g, 0.053 mmol) and 3-fluorothiophenol (0.080 ml, 0.95 mmol) in 2 mL of Et3N was sealed in a glass tube purged with argon and heated at 100° C. in an oil bath for 17 h. The reaction mixture was cooled to RT and diluted with MeOH. The solution was evaporated onto silica gel and purified by flash chromatography (ISCO 80 g column, eluting with 15-45% EtOAc in hexanes) to give the title compound as a white amorphous solid. MS (ESI, pos. ion) m/z: M+1=365.1

reactant | 6-chloro-1-(4-fluoro-2-methylphenyl)phthalazine | 0.72 mmol, 0.197 g | ClC=1C=C2C=NN=C(C2=CC1)C1=C(C=C(C=C1)F)C | C15H10ClFN2
reactant | 3-fluorothiophenol | 0.95 mmol, 0.080 ml | FC=1C=C(C=CC1)S | C6H5FS
solvent | Et3N | 2 mL | CCN(CC)CC | C6H15N
catalyst | palladium(II) acetate | 0.049 mmol, 0.011 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(isopropylphosphino)ferrocene | 0.053 mmol, 0.022 g | C(C)(C)P[C-]1C=CC=C1.[C-]1(C=CC=C1)PC(C)C.[Fe+2]
product | 1-(4-Fluoro-2-methylphenyl)-6-(3-fluorophenylthio)phthalazine | FC1=CC(=C(C=C1)C1=NN=CC2=CC(=CC=C12)SC1=CC(=CC=C1)F)C | C21H14F2N2S
